US09233979B2
Step 2: Synthesis of tert-butyl(3-(bis(4-methoxybenzyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)carbamate
Under inert atmosphere, to a solution of 6-chloro-N,N-bis(4-methoxybenzyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine (0.5 g, 0.77 mmol) in anhydrous 1,4-dioxane (10.0 mL) was added tert-Butyl carbamate (0.26 g, 2.3 mmol), brettphos pre catalyst (0.03 g, 0.004 mmol), Cs2CO3 (0.75 g, 2.3 mmol) and the contents were heated in a sealed tube at 100° C. After 6 h, the reaction mixture was brought back to ambient temperature and the volatiles were removed under reduced pressure. The residue thus obtained was purified by a flash column chromatography to afford the title compound (0.4 g, 71% yield). MS ES calc'd. for C46H45N5O4 [M+H]+ 732. Found 732.

reactant | 6-chloro-N,N-bis(4-methoxybenzyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 0.77 mmol, 0.5 g | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C41H35ClN4O2
reactant | tert-Butyl carbamate | 2.3 mmol, 0.26 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | brettphos | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | Cs2CO3 | 2.3 mmol, 0.75 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
product | tert-butyl(3-(bis(4-methoxybenzyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)carbamate | 0.4 g, 71% yield | C(C)(C)(C)OC(NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)=O | C46H45N5O4
